US06019986
5-Amino-3-cyano-4-iodo-1-(2,4,6-trichlorophenyl)pyrazole
N-Iodosuccinimide (17.67 g) was added portionwise to a stirred solution of 5-amino-3-cyano-1-(2,4,6-trichlorophenyl)pyrazole (U.S. Pat. No. 5,232,940; 22.5 g) in acetonitrile (300 ml) and the resulting mixture stirred at room temperature for 1 hour, then evaporated under reduced pressure. The residue was partially purified by chromatography on silica gel (800 g), using an elution gradient of dichloromethane:ethyl acetate (100:0 to 0:100), to produce a pale brown solid which was further purified as follows. Trituration with hexane (25 ml) provided a residue which was dissolved in dichloromethane (500 ml). This solution was washed with water (500 ml), the aqueous washing back-washed with ethyl acetate (500 ml) and the combined organic solutions dried (Na2SO4) and evaporated under reduced pressure to furnish the title compound as a pale brown solid. δ (DMSOd6): 6.28 (br.s,2H), 7.98 (s,2H). MS (thermospray): M/Z [M+H] 413.0; C10H4Cl3IN4 +H requires 412.9.

reactant | N-Iodosuccinimide | 17.67 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 5-amino-3-cyano-1-(2,4,6-trichlorophenyl)pyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N | C10H5Cl3N4
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-Amino-3-cyano-4-iodo-1-(2,4,6-trichlorophenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N)I | C10H4Cl3IN4
